US07723378B2
A solution of 2-(4-allyl-3,5-dimethyl-phenyl)-[1,3]dioxane (790 mg, 3.4 mmol) in acetone (10 mL) is treated with OsO4 (1 mL of a 2.5% solution in tert. butanol), NMO hydrate (551 mg, 4.08 mmol) and water (0.5 mL). The mixture is stirred at rt for 2.5 h before it is diluted with DCM, washed with 10% aq. citric acid solution (2×50 mL), dried over MgSO4, filtered and evaporated. The product is crystallized from DCM/heptane to give 3-(4-[1,3]dioxan-2-yl-2,6-dimethyl-phenyl)-propane-1,2-diol (335 mg) as a grey powder; 1H NMR (CDCl3): δ 7.15 (s, 2H), 5.42 8 s, 1H), 4.26 (dd, J=4.6, 10.6 Hz, 2H), 3.98 (dt, Jd=1.8 Hz, Jt=12.3 Hz, 2H), 3.92-3.81 (m, 2H), 3.66 (dd, J=2.9, 11.1 Hz, 1H), 3.55 (dd, J=7.0 11.1 Hz, 1H), 2.88 (dd, J=8.8, 14.1 Hz, 1H), 2.74 (dd, J=5.3, 13.5 Hz, 1H), 2.34 (s, 6H), 2.30-2.14 (m, 2H), 1.90 (s br, 2H).

reactant | 2-(4-allyl-3,5-dimethyl-phenyl)-[1,3]dioxane | 3.4 mmol, 790 mg | C(C=C)C1=C(C=C(C=C1C)C1OCCCO1)C | C15H20O2
reactant | water | 0.5 mL | O | H2O
reactant | acetone | 10 mL | CC(=O)C | C3H6O
solvent | tert. butanol | C(C)(C)(C)O | C4H10O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | OsO4 | O=[Os](=O)(=O)=O
product | 3-(4-[1,3]dioxan-2-yl-2,6-dimethyl-phenyl)-propane-1,2-diol | 335 mg | O1C(OCCC1)C1=CC(=C(C(=C1)C)CC(CO)O)C | C15H22O4
